US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-N′-(3-chloro-4-methoxyphenyl)urea was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 3-chloro-4-methoxyphenyl isocyanate in a similar manner as described above to give a tan solid (42% yield). 1H-NMR (DMSO-d6): δ 10.98 (s, 1H), 8.33 (s, 1H), 7.73 (d, 1H), 7.60 (d, 1H), 7.30 (d, 1H), 7.25-7.14 (m, 2H), 7.08 (d, 1H), 6.63 (d, 1H), 5.01 (m, 1H), 3.82 (s, 3H), 2.65 (m, 2H), 2.04 (m, 1H), 1.94-1.76 (m, 3H); MS m/z 448 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 3-chloro-4-methoxyphenyl isocyanate | ClC=1C=C(C=CC1OC)N=C=O | C8H6ClNO2
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-N′-(3-chloro-4-methoxyphenyl)urea | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(=O)NC1=CC(=C(C=C1)OC)Cl | C20H19BrClN3O2
